US04697012
A suspension of 4-[2-(phenylmethyl)-4-thiazolyl]pyridine-1-oxide (1.00 g, 0.0037 mol) in phosphorous oxychloride (10.0 g) was warmed on a steam bath overnight. After cooling the reaction mixture was concentrated and the residue treated with an excess of aqueous sodium bicarbonate. The tan precipitate was collected, taken up in methylene chloride (15 mL) and ether (75 mL), and filtered through celite. The filtrate was concentrated to a total volume of 10 mL and diluted with hexane (50 mL). The product which crystallized on standing was collected and dried to afford 2-benzyl-4-(2-chloro-4-pyridyl)thiazole (325 mg, 31%). mp. 104°-106° C.

reactant | 4-[2-(phenylmethyl)-4-thiazolyl]pyridine-1-oxide | 0.0037 mol, 1.00 g | C1(=CC=CC=C1)CC=1SC=C(N1)C1=CC=[N+](C=C1)[O-] | C15H12N2OS
reactant | phosphorous oxychloride | 10.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-benzyl-4-(2-chloro-4-pyridyl)thiazole | 325 mg, 31% | C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC(=NC=C1)Cl | C15H11ClN2S
